US07351719B2
20) 2-(2,4-dichloro-phenoxy)-N-[4-(2-diethylamino-ethoxy)-3-methoxy-phenyl]-acetamide
A solution of 70 mg (0.290 mmol) of (2,4-dichloro-phenoxy)-acetylchloride in 0.5 mL dichloromethane was added to a solution of 66 mg (0.278 mmol) of 4-(2-diethylamino-ethoxy)-3-methoxy-phenylamine (intermediate product Z6b) and 96 μL (0.56 mmol) of ethyl-diisopropylamine in 1.5 mL abs. dichloromethane and the mixture was stirred for 15 hours at RT. The reaction mixture was evaporated down i. vac. and the residue was purified by column chromatography (silica gel, dichloromethane/MeOH 9:1).

reactant | (2,4-dichloro-phenoxy)-acetylchloride | 0.290 mmol, 70 mg | ClC1=C(OCC(=O)Cl)C=CC(=C1)Cl | C8H5Cl3O2
reactant | 4-(2-diethylamino-ethoxy)-3-methoxy-phenylamine | 0.278 mmol, 66 mg | C(C)N(CCOC1=C(C=C(C=C1)N)OC)CC | C13H22N2O2
reactant | ethyl-diisopropylamine | 0.56 mmol, 96 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 2-(2,4-dichloro-phenoxy)-N-[4-(2-diethylamino-ethoxy)-3-methoxy-phenyl]-acetamide | ClC1=C(OCC(=O)NC2=CC(=C(C=C2)OCCN(CC)CC)OC)C=CC(=C1)Cl | C21H26Cl2N2O4
